US05663053
Ethyl 8-(4,5-diphenyl-2-oxo-2,3-dihydroimidazol-1-yl)octanoate
4,5-Diphenylimidazol-2-one was treated with ethyl 8-bromooctanoate and potassium carbonate in butanone to give after work-up the title compound, m.p. 78°-79° C, Found:C, 73.7;H, 7.4;N, 6.7%;C25H30N2O3 requires: C, 73.9;H, 7.4;N, 6.9%

reactant | 4,5-Diphenylimidazol-2-one | C1(=CC=CC=C1)C1=NC(N=C1C1=CC=CC=C1)=O | C15H10N2O
reactant | ethyl 8-bromooctanoate | BrCCCCCCCC(=O)OCC | C10H19BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | Ethyl 8-(4,5-diphenyl-2-oxo-2,3-dihydroimidazol-1-yl)octanoate | C1(=CC=CC=C1)C=1NC(N(C1C1=CC=CC=C1)CCCCCCCC(=O)OCC)=O | C25H30N2O3
